US07420001B2
(2-Propionyl-phenoxy)-acetic acid methyl ester (432 mg, 1.94 mmol, 1 eq.) was added to a solution of sodium methoxide (105 mg, 0.94 mmol, 1 eq.) in methanol (10 mL) and the reaction was heated at 60° C. for 4 h. The reaction was acidified using 1N HCl, diluted with water, extracted twice with ethyl acetate, and the combined organic layers were washed with saturated aqueous NaHCO3. The aqueous layers were extracted with ethyl acetate. The organic layers were combined, dried over magnesium sulfate, and concentrated in vacuo. 3-Ethyl-benzofuran-2-carboxylic acid methyl ester is obtained in 38% yield after flash column chromatography purification (1-5% ethyl acetate/hexanes). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.2 (t, J=7.6 Hz, 3 H) 3.1 (q, J=7.6 Hz, 2 H) 3.9 (s, 3 H) 7.4 (m, 1 H) 7.5 (m, 1 H) 7.7 (m, 1 H) 7.9 (dd, J=7.8, 0.8 Hz, 1 H).

reactant | (2-Propionyl-phenoxy)-acetic acid methyl ester | 1.94 mmol, 432 mg, 1 eq. | COC(COC1=C(C=CC=C1)C(CC)=O)=O | C12H14O4
reactant | sodium methoxide | 0.94 mmol, 105 mg, 1 eq. | C[O-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | 3-Ethyl-benzofuran-2-carboxylic acid methyl ester | 38% yield | COC(=O)C=1OC2=C(C1CC)C=CC=C2 | C12H12O3
